US04307116
2-Benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (90.5 g) is dissolved in anhydrous N,N-dimethylformamide (400 cc). The solution obtained is heated at 80° C. under an atmosphere of nitrogen. A solution, preheated to 80° C., of bis-dimethylamino-tert.-butoxymethane (36.1 g) in anhydrous N,N-dimethylformamide (60 cc) is then added rapidly. The reaction mixture is kept at 80° C. for 5 minutes and then poured into ethyl acetate (3 liters). After addition of distilled water (1 liter), the organic phase is decanted, washed with distilled water (4×1 liter), dried over sodium sulphate and filtered in the presence of decolorising charcoal. The filtrate is concentrated to dryness under reduced pressure (20 mm Hg) at 30° C., and 2-benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-(2-dimethylaminovinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (E-form) (101 g) is obtained in the form of an orange-coloured froth.

reactant | 2-Benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 90.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(=O)OC(C)(C)C)=O | C26H28N2O5S
reactant | bis-dimethylamino-tert.-butoxymethane | 36.1 g | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
reactant | ethyl acetate | 3 liters | C(C)(=O)OCC | C4H8O2
reactant | water | 1 liter | O | H2O
solvent | N,N-dimethylformamide | 400 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | 2-benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-(2-dimethylaminovinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 101 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(=O)OC(C)(C)C)=O | C29H33N3O5S
